US04742068
a. Methyl 4-Aminobutanoate Hydrochloride
Anhydrous HCl was slowly bubbled into a heterogeneous mixture of 20.64 g (0.2 mole) of 4-aminobutyric acid in 200 ml of methanol at room temperature. After adding the HCl for about 5 minutes the reaction mixture warmed to a gentle reflux at which time it was submerged into a 0° C. ice bath. HCl addition was continued for an additional 5 minutes after the reaction mixture was cooled. The reaction mixture was then placed under nitrogen and refluxed for 17 hours. The solvent was evaporated in vacuo giving 30.70 g of a white solid, mp 110°14 115° C. The title compound was used in the next step without further purification.

reactant | HCl | Cl | ClH
reactant | 4-aminobutyric acid | 0.2 mole, 20.64 g | NCCCC(=O)O | C4H9NO2
reactant | methanol | 200 ml | CO | CH4O
product | Methyl 4-Aminobutanoate Hydrochloride | 30.70 g | Cl.NCCCC(=O)OC | InChI=1S/C5H11NO2.ClH/c1-8-5(7)3-2-4-6;/h2-4,6H2,1H3;1H
